US05643906
1-(2-phenylethyl)-4-butyl-5-chloro-1,3-dihydro-3-[[4-[3-(1H-tetrazol-5-yl)-2-pyridinyl]phenyl]methyl]-2H-imidazol-2-one;
1-methyl-4-pentyl-5-chloro-1,3-dihydro-3-[[4-3-(1H-tetrazol-5-yl)-2-pyridinyl]phenyl]methyl]-2H-imidazol-2-one, 1-ethyl-4-pentyl-5-chloro-1,3-dihydro-3-[[4-[3-(1H-tetrazol-5-yl)-2-pyridinyl]phenyl]methyl]-2H-imidazol-2-one;

reactant | 2H-imidazol-2-one | N=1C(N=CC1)=O | C3H2N2O
reactant | 1-ethyl-4-pentyl-5-chloro-1,3-dihydro-3-[[4-[3-(1H-tetrazol-5-yl)-2-pyridinyl]phenyl]methyl]-2H-imidazol-2-one | C(C)N1C(N(C(=C1Cl)CCCCC)CC1=CC=C(C=C1)C1=NC=CC=C1C1=NN=NN1)=O | C23H26ClN7O
product | 1-(2-phenylethyl)-4-butyl-5-chloro-1,3-dihydro-3-[[4-[3-(1H-tetrazol-5-yl)-2-pyridinyl]phenyl]methyl]-2H-imidazol-2-one | C1(=CC=CC=C1)CCN1C(N(C(=C1Cl)CCCC)CC1=CC=C(C=C1)C1=NC=CC=C1C1=NN=NN1)=O | C28H28ClN7O
